US04000302
(i) A solution was prepared by the gradual addition of cysteamine hydrochloride (2.03 g) to sodium (0.83 g) dissolved in ethanol (50 ml) with stirring at 0° under a nitrogen atmosphere. After stirring for 2 hours at 0°, 3-bromomethylisothiazole (3.2 g) was added dropwise over 15 minutes at 0°, the reaction mixture subsequently being set aside overnight at room temperature. Following acidification to pH 3.5 with hydrochloric acid, concentration and re-evaporation with ethanol, the residue was dissolved in ethanol, filtered and concentrated to yield 3-[(2-aminoethyl)thiomethyl]isothiazole hydrochloride (3.5 g). This was converted directly to the free base by treatment with aqueous potassium carbonate and extraction with ether. The extracts were dried over magnesium sulphate, filtered and concentrated to yield the amine base as an oil (1.56 g). The amine was dissolved in ethanol (10 ml), methyl isothiocyanate (0.66 g) added, and the solution heated under reflux for 30 minutes. Concentration, followed by purification of the crude product by chromatography on a column of silica gel with ethyl acetate as eluant followed by chromatography on a column of alumina with benzene/ethyl acetate gave N-methyl-N' -[2-(3-isothiazolylmethylthio)ethyl]-thiourea.

reactant | cysteamine hydrochloride | 2.03 g | Cl.NCCS
reactant | sodium | 0.83 g | [Na] | Na
reactant | 3-bromomethylisothiazole | 3.2 g | BrCC1=NSC=C1 | C4H4BrNS
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-[(2-aminoethyl)thiomethyl]isothiazole hydrochloride | 3.5 g | Cl.NCCSCC1=NSC=C1 | InChI=1S/C6H10N2S2.ClH/c7-2-4-9-5-6-1-3-10-8-6;/h1,3H,2,4-5,7H2;1H
